US04202893
A solution of the syn isomer of 4.55 g of 3-acetoxymethyl-7-[{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid, 1.7 g of potassium thioacetate, 2 g of deshydrated monosodium phosphate 1.05 g sodium acid carbonate and 20 ml of distilled water was heated at 70° C. for 90 minutes and the mixture was acidified with 2 ml of formic acid and was extracted 4 times with 60 ml of methyl acetate (insolubles vacuum filtered). The organic solution was washed with water and evaporated to dryness. The residue was dissolved in 20 ml of acetone containing 10% of water and 0.5 g of activated carbon were added thereto. The mixture was stirred for 5 minutes and was vacuum filtered and the filter was washed with acetone containing 10% of water. The filter was evaporated to dryness and the residue was treated with absolute ethanol and was vacuum filtered. The product was washed with alcohol and then with ether to obtain 1.9 g of the pure syn isomer of 3-acetylthiomethyl-7-[{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid which was identical to the product of Example 6.

reactant | 3-acetoxymethyl-7-[{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid | 4.55 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | potassium thioacetate | 1.7 g | C(C)(=S)[O-].[K+]
reactant | monosodium phosphate | 2 g | P(=O)([O-])(O)O.[Na+]
reactant | water | 20 ml | O | H2O
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | 3-acetylthiomethyl-7-[{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid | C(C)(=O)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O6S3
